US04341773
182 g of 2-chloro-4-(N-methylanilino)-5-sulfamoylbenzene sulfonic acid phenyl ester (0.4 mol) are reacted with 0.5 liter of 2-thienylmethyl amine according to Example 1. Working up in the manner described in Example 1 gives 200 g of 2-(thienylmethylamino)-4-(N-methylanilino)-5-sulfamoylbenzene sulfonic acid phenyl ester in chromatographically pure form. Yield: 94% of the theory. The product sinters at a temperature above 90° C.

reactant | 2-chloro-4-(N-methylanilino)-5-sulfamoylbenzene sulfonic acid phenyl ester | 0.4 mol, 182 g | C1(=CC=CC=C1)OS(=O)(=O)C1=C(C=C(C(=C1)S(N)(=O)=O)N(C1=CC=CC=C1)C)Cl | C19H17ClN2O5S2
reactant | 2-thienylmethyl amine | 0.5 liter | S1C(=CC=C1)CN | C5H7NS
product | 2-(thienylmethylamino)-4-(N-methylanilino)-5-sulfamoylbenzene sulfonic acid phenyl ester | 200 g, Yield: 94% | C1(=CC=CC=C1)OS(=O)(=O)C1=C(C=C(C(=C1)S(N)(=O)=O)N(C1=CC=CC=C1)C)NCC=1SC=CC1 | C24H23N3O5S3
